US08198287B2
17.1 (+/−)(3-Bromo-4-oxo-2-pyrimidin-4-yl-4,6,7,8,9,10-hexahydro-pyrimido[1,2-a]azepin-10-yl)-carbamic acid ethyl ester
To a solution of 0.080 g (0.24 mmol) of (4-oxo-2-pyrimidin-4-yl -4,6,7,8,9,10-hexahydro-pyrimido[1,2-a]azepin-10-yl)-carbamic acid ethyl ester in dimethylformamide (4 mL) were added 0.21 g (1.21 mmol) of N-bromosuccinimide and 0.03 g (0.12 mmol) of benzoyl peroxide. The solution was stirred at room temperature for 10 min and at 50° C. for 20 min. The reaction was quenched by adding a saturated solution of ammonium chloride. The product was extracted with dichloromethane, the organic phase was washed with a saturated solution of sodium chloride, dried over sodium sulfate, filtered and the solvent was evaporated. The residue was chromatographed on silica gel eluting with a mixture of dichloromethane/methanol in the proportions 95/5 to afford 58 mg of a solid.

reactant | (4-oxo-2-pyrimidin-4-yl -4,6,7,8,9,10-hexahydro-pyrimido[1,2-a]azepin-10-yl)-carbamic acid ethyl ester | 0.24 mmol, 0.080 g | C(C)OC(NC1C=2N(CCCC1)C(C=C(N2)C2=NC=NC=C2)=O)=O | C16H19N5O3
reactant | N-bromosuccinimide | 1.21 mmol, 0.21 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.12 mmol, 0.03 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | (+/−)(3-Bromo-4-oxo-2-pyrimidin-4-yl-4,6,7,8,9,10-hexahydro-pyrimido[1,2-a]azepin-10-yl)-carbamic acid ethyl ester | 58 mg | C(C)OC(NC1C=2N(CCCC1)C(C(=C(N2)C2=NC=NC=C2)Br)=O)=O | C16H18BrN5O3
